US07179823B1
A mixture of 4-[4-(2-ethoxycarbonylethyl)-3-phenyl-1H-pyrazol-1-ylmethyl]benzoic acid (400 mg), 3-aminopyridine (160 mg), 1-hydroxybenzotriazole monohydrate (200 mg), WSC (250 mg), and N,N-dimethylformamide (10 ml) was stirred at room temperature for 2.5 days. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium bicarbonate solution, 1 N hydrochloric acid, then, with saturated aqueous sodium chloride solution, and dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[3-phenyl-1-[3-(3-pyridylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionate (280 mg, yield: 56%) was obtained as colorless crystals from the fraction eluted with ethyl acetate-methanol (50:1, volume ratio). Melting point: 111–112° C.

reactant | 4-[4-(2-ethoxycarbonylethyl)-3-phenyl-1H-pyrazol-1-ylmethyl]benzoic acid | 400 mg | C(C)OC(=O)CCC=1C(=NN(C1)CC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C22H22N2O4
reactant | 3-aminopyridine | 160 mg | NC=1C=NC=CC1 | C5H6N2
reactant | 1-hydroxybenzotriazole monohydrate | 200 mg | O.ON1N=NC2=C1C=CC=C2
reactant | WSC | 250 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[3-phenyl-1-[3-(3-pyridylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionate | 280 mg, yield: 56% | C1(=CC=CC=C1)C1=NN(C=C1CCC(=O)OCC)CC1=CC(=CC=C1)C(=O)NC=1C=NC=CC1 | C27H26N4O3
